US09120793B2
(3S)-3-[4-[[2-[2,6-Dimethyl-4-[3-(methylsulfonyl)propoxy]phenyl][1,2,4]triazolo[1,5-a]pyridin-6-yl]methoxy]phenyl]hex-4-ynoic acid
To a solution of (S)-3-(4-{2-[4-(3-methanesulfonyl-propoxy)-2,6-dimethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy}-phenyl)-hex-4-ynoic acid ethyl ester (0.145 g, 0.238 mmol) in EtOH (5 mL) is added 5 N NaOH solution (0.14 mL, 0.715 mmol) at room temperature and the reaction mixture is heated at 50° C. for 30 minutes. The reaction mixture is evaporated and the residue is dissolved in water (5 mL), washed with ether (2×5 mL), and acidified with aqueous citric acid solution (pH-6) at 0° C. The precipitate solid is filtered and dried to give the title compound as an off-white solid (0.075 g, 55%). LCMS m/z 576 [M+H]+.

reactant | (S)-3-(4-{2-[4-(3-methanesulfonyl-propoxy)-2,6-dimethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy}-phenyl)-hex-4-ynoic acid ethyl ester | 0.238 mmol, 0.145 g | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=C(C=C(C=C2C)OCCCS(=O)(=O)C)C)=O | C33H37N3O6S
reactant | NaOH | 0.715 mmol, 5 N, 0.14 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | (3S)-3-[4-[[2-[2,6-Dimethyl-4-[3-(methylsulfonyl)propoxy]phenyl][1,2,4]triazolo[1,5-a]pyridin-6-yl]methoxy]phenyl]hex-4-ynoic acid | 0.075 g, 55% | CC1=C(C(=CC(=C1)OCCCS(=O)(=O)C)C)C1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)O)C#CC)=N1 | C31H33N3O6S
